US04288448
A mixture of tri-n-butyltin imidazole (9.28 g), 2-chloro-2-(2,4-dichlorophenyl)propionaldehyde (4.75 g) and toluene (100 ml) was heated under reflux for 5 hours. After cooling, the reaction mixture was washed with water, dried over anhydrous magnesium sulfate and evaporated to remove the solvent. The oily residue was purified by chromatography over silica gel to give 1-[1,2-epoxy-2-(2,4-dichlorophenyl)propyl]imidazole (2.35 g, yield 43.7%) as an oil. The product was dissolved in ether, and the ether solution was neutralized by adding fuming nitric acid to give crystals of 1-[1,2-epoxy-2-(2,4-dichlorophenyl)propyl]-imidazole nitrate, which were recrystallized from methanol.

reactant | tri-n-butyltin imidazole | 9.28 g | N1C=NC=C1.C(CCC)[Sn](CCCC)CCCC
reactant | 2-chloro-2-(2,4-dichlorophenyl)propionaldehyde | 4.75 g | ClC(C=O)(C)C1=C(C=C(C=C1)Cl)Cl | C9H7Cl3O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[1,2-epoxy-2-(2,4-dichlorophenyl)propyl]imidazole | 2.35 g, yield 43.7% | O1C(C1(C)C1=C(C=C(C=C1)Cl)Cl)N1C=NC=C1 | C12H10Cl2N2O
